US06887896B1
Ethyl (E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-but-2-enoate (Compound A-133)
As described in General Procedure F-1, 1-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-ethanone (Compound A-121, 0.23 g, 0.72 mmol) and triethyl 2-fluoro-2-phosphonoacetate (566 mg, 2.3 μmmol) were reacted with n-butyllithium (1.6 M in hexanes, 1.46 mL, 2.3 mmol) in THF to produce the title compound after purification by flash column chromatography (silica gel, 2% to 4% ethyl acetate in hexane).

reactant | 1-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-ethanone | 0.72 mmol, 0.23 g | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)C(C)=O)OCC | C19H25ClO2
reactant | triethyl 2-fluoro-2-phosphonoacetate | 566 mg | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | n-butyllithium | 2.3 mmol, 1.6 M, 1.46 mL | C(CCC)[Li]
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl (E)-3-(4-chloro-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-but-2-enoate | ClC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C(=O)OCC)/F)/C)OCC | C23H30ClFO3
